US06143763
To a solution of 2-chloro-6-{3-[3-cyclohexyl-3-(2-acetyloxybutyl)ureido]propoxy}quinoline (5.6 g) in dimethylformamide (80 ml) is added sodium hydride (60% oily, 0.8 g), and the mixture is stirred at room temperature for one hour. To the reaction solution is added methyl iodide (1.1 ml), and the mixture is stirred for one hour. To the mixture is further added methyl iodide (2 ml), and the mixture is stirred at room temperature overnight. The reaction solution is poured into water, and extracted with ethyl acetate. The ethyl acetate layer is separated, washed with water, and dried over anhydrous magnesium sulfate. The resultant is concentrated under reduced pressure to remove the solvent, and the residue is purified by silica gel column chromatography (solvent; methylene chloride:methanol=20:1) to give 2-chloro-6-{3-[1-methyl-3-cyclohexyl-3-(2-acetyloxybutyl)ureido]propoxy}quinoline (5.5 g) as a colorless oil.

reactant | 2-chloro-6-{3-[3-cyclohexyl-3-(2-acetyloxybutyl)ureido]propoxy}quinoline | 5.6 g | ClC1=NC2=CC=C(C=C2C=C1)OCCCNC(=O)N(CC(CC)OC(C)=O)C1CCCCC1 | C25H34ClN3O4
reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | methyl iodide | 1.1 ml | CI | CH3I
reactant | methyl iodide | 2 ml | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 2-chloro-6-{3-[1-methyl-3-cyclohexyl-3-(2-acetyloxybutyl)ureido]propoxy}quinoline | 5.5 g | ClC1=NC2=CC=C(C=C2C=C1)OCCCN(C(=O)N(CC(CC)OC(C)=O)C1CCCCC1)C | C26H36ClN3O4
